US05958918
D. [1-(2-Cyano-pyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester
The title compound is prepared from (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester as described in EXAMPLE 122, Part F using 2-cyano-4-(bromomethyl)pyridine in place of 4-bromomethylthiophene-2-carbonitrile. The crude product is purified by column chromatography eluting with gradient of 25% EtOAc/CH2Cl2 to 50% EtOAc/CH2Cl2 to afford the title compound as a solid.

reactant | (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | 2-cyano-4-(bromomethyl)pyridine | C(#N)C1=NC=CC(=C1)CBr | C7H5BrN2
product | [1-(2-Cyano-pyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC(=NC=C1)C#N)=O)=O | C16H20N4O3
